data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7484,"CC1(C)OC(=O)CC(=O)O1.CCCCCCCC[C:1](Cl)=[O:2].CN(C)C1=CC=[N:3]C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3129,"CC1=C[N:1]=[CH:2]C=C1.[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2469,"C1=CC=[N:1]C=C1.CC(C)(C)[Si-](C)(C)(Cl)[O+:2](CCC1CC=CC1O)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4052,"C=CC(C)=O.CC1=CC=C([CH:1]=[O:2])C=C1.CC[N+]1=[C-:3]SC(CCO)=C1C.CC[NH+](CC)CC.[Br-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3041,"[H:1][OH2+:2].[O-]CCC=[CH:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1063,"CC(=O)CCC(=O)C1=CC([C:1]2=[NH+:2]C(C)=C[CH:3]2[H:4])=CC(C2=CC=C(C)N2)=C1.CC(=O)[O-:5].O.O=C[O-]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4817,"CC(C)(C)[O-:1].CCO[C:2]([CH:3](Cl)[H:4])=[O:5].O=C1CCCCC1.O=CC1=CC=CC=C1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,4014,"CC(=O)[CH:1](C)[Br:2].C[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,546,"C1=CC=C([P+]2(C3=CC=CC=C3)CCCC2C2CCC[C:1]2=[C:2](C2=CC=CC=C2)[O-:3])C=C1.CC(C)(C)[O:4][H:5].[K+]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6463,"CCC1C=CC(O)C(CCCC#N)C1C(=O)N[N+:1](C)(C)[H:2].O=C([O][K])[O-:3].[I-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1943,"N#CC1=CC=C[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,860,"C=CCN1CCC23C4=C5C=CC([O+](C)[B-:1](Br)(Br)[Br:2])=C4OC2C(=O)CCC3(O)C1C5|((1, 2), 2)"
train,pmechdb_split_0,0,9570,"C[Si](C)(C)CC#CCC(CC=[O:1])C1=CC=CC=C1.[Cl-].[Cl][Zn:2][Cl]|(1, 2)"
train,pmechdb_split_0,0,5274,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CCCC(C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2447,"CC(=O)O.CC(=O)[O:1][C:2](C)(OC1(C=O)CC(C)C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=CC1(C)CCCO[Si](C)(C)C(C)(C)C)[O-:3].SC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8763,"CO[P:1](OC)OC.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7202,"C[CH:1]=[O:2].OC1=CC=C(CC[NH2:3])C=C1O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5968,"CC(C)(C(=O)C1CCCC2=C(C=CC=C2)C1=O)[O:1][P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2486,"C[O:1][CH:2]=[CH:3]C1=CC=CC=C1.O=S(=O)(O)[O:4][H:5]|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9978,"C[C+:1]=O.C[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,1206,"C[CH:1]=[N+:2](C)C.C[O:3][B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8864,"C[Si-:1](C)(C)(OC1=CC=CC=C1)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4212,"C=C(CCC1(C2=CC(OC)=C(OC)C=C2)CC(=O)N(C)C1O)C[Si](C)(C)C.CCC1C(CCCCO)C2C(CCN2C(=O)OC)C2C(C)C(=O)OC12.CC[N:1](CC)CC.O=S(=O)(Cl)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5936,"C[C:1]#[C:2]C.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7778,"CO[C:1](O)([NH3+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5480,"CC[C:1](C)=[CH:2]C.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6296,"C[C+](C)C.O=C(C(F)(F)F)[O-:1].O=C(CC1CCCCC1)C1=CC(C2=CC=CC=C2)=NN1CCNC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1564,"C1=CC=[NH+]C=C1.CCCCCC1=CC([O-:1])=C(C2C=C(C)CCC2[C+:2](C)C)C(O)=C1.[OH-]|(1, 2)"
train,pmechdb_split_0,0,7466,"CC(C)(C)[O-:1].CC1=CC=C(S(=O)(=O)[O:2][CH2:3][CH:4](C2=CC=C([N+](=O)[O-])C=C2)[H:5])C=C1|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,6791,"CC1=CCC(C2=CC=CC=C2)([OH:1])O1.O=S(=O)([O-])O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,403,"CC1=C([CH:1]=[O:2])C=CC=C1.CC[NH+](CC)CC.COC(=O)C[NH2:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8685,"CC(C)CC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)CC1.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7192,"CC#[C-:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4167,"CCCC(CO)CC(OC(C)(C)C)=[O:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3841,"C1CC(C2=NN=NN2)[NH:1]C1.CCCCC(=O)C1=C(O)C=CC(Br)=C1.O=C(C(F)(F)F)[O:2][H:3].O=CC1=CC=C([N+](=O)[O-])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2910,"CC(O)=[O+:1][Si-:2](C)(C)(C)OS(C)(=O)=O|((2, 1), 1)"
train,pmechdb_split_0,0,5418,"C1=C[NH+]=CN1.COC1OC2COC(C3=CC=CC=C3)OC2C(I)C1O[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[I:2].O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[I-]|((1, 2), 2)"
train,pmechdb_split_0,0,7167,"C=CC(NCC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4520,"CCN=C(NCCCN(C)C)OC([O-])(CNC(=O)OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)[NH+:1](C1=CC=C(Cl)C=C1I)[H:2].CCN=C=NCCC[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4449,"C[C:1]1(C)C[OH+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4123,"CCOC(=O)C[N-:1][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9066,"CC(=O)CC[C:1]([CH2:2][H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1003,"C1CC[NH:1]C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
